US07842688B2
a) Benzyl 3-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-7-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.690 g of benzyl 3-[3,3-dimethyl-2-oxo-1-(2-trimethylsilanylethoxymethyl)-2,3-dihydro-1H-indol-7-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 7.2 ml of tetrahydrofuran is admixed with 17.9 ml of tetrabutylammonium fluoride solution (1M in tetrahydrofuran) and stirred at reflux over 26 hours. The reaction mixture is cooled, poured onto water (100 ml) and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed with brine (1×100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as an orange oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.22 (1:1 EtOAc-heptane); Rt=5.89.

reactant | benzyl 3-[3,3-dimethyl-2-oxo-1-(2-trimethylsilanylethoxymethyl)-2,3-dihydro-1H-indol-7-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.690 g | CC1(C(N(C2=C(C=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1)COCC[Si](C)(C)C)=O)C | C47H60N2O8Si
reactant | tetrabutylammonium fluoride | 1M, 17.9 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 7.2 ml | O1CCCC1 | C4H8O
product | Benzyl 3-(3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-7-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | CC1(C(NC2=C(C=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1)=O)C | C41H46N2O7
